US05130381
Preparation of Elastomeric Glycidyl Azide - Ethylene Oxide Copolymer (GEC)
Elastomeric GEC is prepared according to the same previous procedure as in Example 1, except that commercial rubbery Epichlorohydrin-Ethylene Oxide Copolymer (PEEC) is used instead of PECH as the starting material. The copolymer contains about 70% PECH and 30% Ethylene Oxide. For this reason, a weight ratio NaN3 :PEEC of 0.55 is used in this case. Specifically, the reaction for 16 h at 100° C. of 10 g PEEC (MW~9×105) in 50 g DMA and 5 g EG with 5.5 g NaN3 and 1.5 g NaOH will yield 9.0 g (90%) of GEC azido product. This copolymer containing about 70% GAP and 30% Ethylene Oxide has a MW of about 10,000, a Tg of about -55° C. and a functionality (f) of about 3.5.

reactant | Epichlorohydrin Ethylene Oxide | C(Cl)C1CO1.C1CO1
reactant | Ethylene Oxide | C1CO1 | C2H4O
reactant | NaN3 | [N-]=[N+]=[N-].[Na+]
reactant | PEEC | C1=CN(C(=O)N=C1N)CCOCCP(=O)(O)O | C8H14N3O5P
reactant | PEEC | 10 g | C1=CN(C(=O)N=C1N)CCOCCP(=O)(O)O | C8H14N3O5P
reactant | NaN3 | 5.5 g | [N-]=[N+]=[N-].[Na+]
reactant | NaOH | 1.5 g | [OH-].[Na+]
solvent | DMA | 50 g | CC(=O)N(C)C | C4H9NO
product | Glycidyl Azide Ethylene Oxide | C(C1CO1)N=[N+]=[N-].C1CO1 | InChI=1S/C3H5N3O.C2H4O/c4-6-5-1-3-2-7-3;1-2-3-1/h3H,1-2H2;1-2H2
